US07858646B2
Synthesis of 1-(2-hydroxy-3-propyl-4-{3-[3-(2H-tetrazol-5-yl)-pyridin-2-ylsulfanyl]-benzyloxy}-phenyl)-ethanone
Using the procedure essentially as described for Example 1 using 2-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylsulfanyl]-nicotinonitrile (350 mg, 0.836 mmol), sodium azide (544 mg, 8.36 mmol), and triethylamine hydrochloride (1.15 g, 8.36 mmol) to yield the title compound as a tan solid (185 mg, 48%): 1H NMR (DMSO-d6) δ 0.796 (t, 3H), 1.45 (sextuplet, 2H), 2.56 (t, 2H), 2.58 (s, 3H), 5.29 (s, 2H), 6.73 (d, 1H), 7.38 (dd, 1H), 7.48 (m, 3H), 7.57 (s, 1H), 7.82 (d, 1H), 8.16 (d, 1H), 8.44 (dd, 1H), 12.84 (s, 1H); MS (esi negative) m/z 460 (m−1).

reactant | 2-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylsulfanyl]-nicotinonitrile | 0.836 mmol, 350 mg | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC2=C(C#N)C=CC=N2)C=C1)CCC)O | C24H22N2O3S
reactant | sodium azide | 8.36 mmol, 544 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 8.36 mmol, 1.15 g | Cl.C(C)N(CC)CC
product | 1-(2-hydroxy-3-propyl-4-{3-[3-(2H-tetrazol-5-yl)-pyridin-2-ylsulfanyl]-benzyloxy}-phenyl)-ethanone | 185 mg, 48% | OC1=C(C=CC(=C1CCC)OCC1=CC(=CC=C1)SC1=NC=CC=C1C=1N=NNN1)C(C)=O | C24H23N5O3S
